US04097525
Ethyl-m-[N,N-di(n-hexadecyl)aminomethyl]-benzimidate Dihydrochloride
A mixture of α-[N,N-di(n-hexadecyl)amino]-m-toluonitrile (29.0 g., 0.05 mole), ethanol (40 ml., 0.67 mole) and dioxane (100 ml.) was saturated with dry hydrogen chloride gas for 40 minutes at 15°-25° C. It was then stoppered and held overnight at room temperature. Thin layer chromatography analysis (4:1, benzene:ethanol on silica gel) indicated complete reaction of the nitrile. The mixture was evaporated in vacuo yielding the named product quantitatively as a foam [35.0 g., ~ 100% yield, Rf .87 (4:1, benzene: ethanol on silica gel)].

reactant | α-[N,N-di(n-hexadecyl)amino]-m-toluonitrile | 0.05 mole, 29.0 g | C(CCCCCCCCCCCCCCC)N(CCCCCCCCCCCCCCCC)CC1=CC(=CC=C1)C#N | C40H72N2
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | ethanol | 0.67 mole, 40 ml | C(C)O | C2H6O
product | Ethyl-m-[N,N-di(n-hexadecyl)aminomethyl]-benzimidate Dihydrochloride | ~ 100% yield | Cl.Cl.C(C)OC(C1=CC(=CC=C1)CN(CCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCC)=N | InChI=1S/C42H78N2O.2ClH/c1-4-7-9-11-13-15-17-19-21-23-25-27-29-31-36-44(39-40-34-33-35-41(38-40)42(43)45-6-3)37-32-30-28-26-24-22-20-18-16-14-12-10-8-5-2;;/h33-35,38,43H,4-32,36-37,39H2,1-3H3;2*1H
